US04925838
To a solution of sodium borohydride (0.32 g) in tetrahydrofuran (20 ml) was added dropwise boron trifluoride etherate (6.0 ml) under ice-cooling and the mixture was stirred at the same temperature for 10 minutes. To the mixture was added a solution of (2S,4R)-4-methanesulfonyloxy-1(4-nitrobenzyloxycarbonyl)-2-(2-oxoimidazolidin-1-yl)carbonylpyrrolidine (2.0 g) in tetrahydrofuran (10 ml) and the mixture was stirred at ambient temperature for 3 hours. To a reaction mixture was added dropwise methanol (30 ml) under ice-cooling and the solution was evaporated in vacuo. The resulting residue was dissolved in methanol (30 ml) and concentrated hydrochloric acid (0.5 ml) and stirred overnight at ambient temperature. The reaction mixture was evaporated in vacuo to give a residue. The residue was dissolved in a mixture of ethyl acetate (60 ml) and tetrahydrofuran (30 ml) and the solution was washed with saturated aqueous sodium hydrogen carbonate and saturated aqueous sodium chloride successively, dried over anhydrous magnesium sulfate and evaporated in vacuo to give a residue. The residue was chromatographed on silica gel (100 g) eluting with a mixture of chloroform and methanol (19:1 V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4R)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)-2-(2-oxoimidazolidin-1-yl)methylpyrrolidine (0.81 g).

reactant | sodium borohydride | 0.32 g | [BH4-].[Na+]
reactant | boron trifluoride etherate | 6.0 ml | B(F)(F)F.CCOCC
reactant | (2S,4R)-4-methanesulfonyloxy-1(4-nitrobenzyloxycarbonyl)-2-(2-oxoimidazolidin-1-yl)carbonylpyrrolidine | 2.0 g | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N1C(NCC1)=O | C17H20N4O9S
reactant | methanol | 30 ml | CO | CH4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (2S,4R)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)-2-(2-oxoimidazolidin-1-yl)methylpyrrolidine | 0.81 g | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1C(NCC1)=O | C17H22N4O8S
